US05686424
To a round bottomed flask was added the 3-(4-aminophenyl)propanol (1.3 g, 8.6 mmol), pyridine (1.0 mL, 12 mmol) and dichloromethane (25 mL). The solution was cooled to 0° C. and treated with allyl chloroformate (1.0 mL, 9.4 mmol). After allowing to warm to 22° C. over 1 hour, the reaction mixture was diluted with dichloromethane and washed twice with 1N HCl, followed by sat. NaHCO3, water and sat. aq. NaCl. The organic extract was dried (MgSO4) and concentrated in vacuo. Purification by flash chromatography (50% EtOAc in hexane), provided 1.77 g (88%) of 3-(4-(N-carboallyloxy)aminophenyl)propanol as a clear oil which solidified on standing.

reactant | 3-(4-aminophenyl)propanol | 8.6 mmol, 1.3 g | NC1=CC=C(C=C1)CCCO | C9H13NO
reactant | pyridine | 12 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | allyl chloroformate | 9.4 mmol, 1.0 mL | ClC(=O)OCC=C | C4H5ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-(4-(N-carboallyloxy)aminophenyl)propanol | 1.77 g, 88% | C(=O)(OCC=C)NC1=CC=C(C=C1)CCCO | C13H17NO3
